US07671056B2
1) 4-(5-fluorobenzofuran-3-yl)-piperazine-1-carboxylic acid ethyl ester
To a stirred solution of TiCl4 (1M solution in CH2Cl2, 7 ml) and 5-fluoro-benzofuran -3-one (Cagniant, et al., Comptus Rendus des Seances Acad. de Sci., Ser. C, 282:993 (1976), 3.0 g) (3.0 g, 19.7 mmol) in methylene chloride (200 ml) at −10° C., ethyl-1-piperizine carboxylate (commercially available) (3.9 g, 35 mmol) was slowly added. After the addition, the reaction mixture was warmed to room temperature and slowly refluxed for 24 hours. After cooling to room temperature, the reaction was quenched with 2 N aqueous HCl. The organic layer was separated and the aqueous layer was extracted with chloroform. The combined organic layers were washed well with water and dried over anhydrous MgSO4, then filtered and concentrated resulting in a brown oil. Yield: 3.5 g, (60%); MS (ESI) m/z 293 [M+−H]+.

reactant | 5-fluoro-benzofuran -3-one | 19.7 mmol, 3.0 g | FC=1C=CC2=C(C(CO2)=O)C1 | C8H5FO2
reactant | ethyl-1-piperizine carboxylate | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 1M, 7 ml | Cl[Ti](Cl)(Cl)Cl
product | 4-(5-fluorobenzofuran-3-yl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C1=COC2=C1C=C(C=C2)F | C15H17FN2O3
